US04604390
N-[2-[2-(Diethylamino)ethyl]-8-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt
Reaction of a solution of 4.5 g (0.0122 mol) of 5-amino-N,N-diethyl-8-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazole-2-ethanamine and 7.5 g (0.0366 mol) of 2-bromoethylamine, hydrobromide, in 40 ml of EtOH as described in Example 38 gave 2.4 g of product.

reactant | 5-amino-N,N-diethyl-8-methoxy-2H[1]benzothiopyrano-[4,3,2-cd]indazole-2-ethanamine | 0.0122 mol, 4.5 g | NC1=C2C=3C(=NN(C3C=C1)CCN(CC)CC)C1=C(S2)C=C(C=C1)OC | C20H24N4OS
reactant | 2-bromoethylamine, hydrobromide | 0.0366 mol, 7.5 g | Br.BrCCN
solvent | EtOH | 40 ml | CCO | C2H6O
product | N-[2-[2-(Diethylamino)ethyl]-8-methoxy-2H[1]benzothiopyrano[4,3,2-cd]indazol-5-yl]-1,2-ethanediamine, hydrobromide salt | 2.4 g | Br.C(C)N(CCN1N=C2C=3C(=C(C=CC13)NCCN)SC1=C2C=CC(=C1)OC)CC | InChI=1S/C22H29N5OS.BrH/c1-4-26(5-2)12-13-27-18-9-8-17(24-11-10-23)22-20(18)21(25-27)16-7-6-15(28-3)14-19(16)29-22;/h6-9,14,24H,4-5,10-13,23H2,1-3H3;1H
